US05276049
1-(4'-Amidino-3-methylsulphinyl-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one
Prepared from 1-(4'-amidino-3-methylthio-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one by oxidation with bromine in glacial acetic acid in the presence of sodium acetate at ambient temperature.

reactant | 1-(4'-amidino-3-methylthio-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one | C(N)(=N)C1=CC=C(C=C1)C1=CC(=C(C=C1)N1C(N(CC1)CCC(=O)OC)=O)SC | C21H24N4O3S
reactant | bromine | BrBr | Br2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4'-Amidino-3-methylsulphinyl-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one | C(N)(=N)C1=CC=C(C=C1)C1=CC(=C(C=C1)N1C(N(CC1)CCC(=O)OC)=O)S(=O)C | C21H24N4O4S
